US05843942
A mixture of ethyl 6-[2-benzyloxy-5-bromobenzylamino]-2-oxo-1,2-dihydropyridine-3-carboxylate (2.78 g), sodium carbonate (0.97 g) and allyl bromide (0.77 ml) in DMF (10 ml) was stirred for 5 days, poured into saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic solution was washed with HCl solution, saturated aqueous sodium hydrogen carbonate and brine, dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography, eluting with 2.5% ethyl acetate/dichloromethane, to give ethyl 6-[2-benzyloxy-5-bromobenzylamino]-2-allyloxypyridine-3-carboxylate (1.99 g) as an oil.

reactant | ethyl 6-[2-benzyloxy-5-bromobenzylamino]-2-oxo-1,2-dihydropyridine-3-carboxylate | 2.78 g | C(C1=CC=CC=C1)OC1=C(CNC2=CC=C(C(N2)=O)C(=O)OCC)C=C(C=C1)Br | C22H21BrN2O4
reactant | sodium carbonate | 0.97 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | allyl bromide | 0.77 ml | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 6-[2-benzyloxy-5-bromobenzylamino]-2-allyloxypyridine-3-carboxylate | 1.99 g | C(C1=CC=CC=C1)OC1=C(CNC2=CC=C(C(=N2)OCC=C)C(=O)OCC)C=C(C=C1)Br | C25H25BrN2O4
